US07709471B2
N-methyl-3-(2-methylpropylamino)propanamide
N-methylacrylamide (ABCR; 1 g, 11.75 mmol) was dissolved in EtOH (5 mL). Isobutylamine (Aldrich; 2.33 mL, 23.5 mmol) was added and stirred at ambient temperature in a stoppered flask over the weekend. The reaction was then transferred to a microwave reactor vessel and heated in a microwave for 10 minutes at 140° C. Solvents were evaporated in vacuo to give the title compound as a colourless liquid. (1.78 g, 96%)

reactant | N-methylacrylamide | 11.75 mmol, 1 g | CNC(C=C)=O | C4H7NO
reactant | Isobutylamine | 23.5 mmol, 2.33 mL | C(C(C)C)N | C4H11N
solvent | EtOH | 5 mL | CCO | C2H6O
product | N-methyl-3-(2-methylpropylamino)propanamide | CNC(CCNCC(C)C)=O | C8H18N2O
